2153-02-10 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   78 y/o F bronchiectasis, severe COPD with baseline 2L 02 requirement,
   tracheobronchomalacia s/p Y-stent who presents with acute respiratory
   distress. Patient initially presented to [**Hospital 4705**] Hospital speaking in 1
   word sentences, tripoding, found to have an ABG 7.22/110/176/43 and was
   consequently intubated. Patient was given solmedrol 125 mg IV,
   levofloxacin and zosyn. Per records patient had a CXR which
   demonstrated right pleural effusion and RLL infiltrate.
   In [**Hospital1 19**] ED, initial vs were: T 98 P 120 BP 137/70. Patient was felt to
   be desynchronous on vent, started on propofol became hypotensive and
   was switched over to versed. Central line was placed and 3 L NS given.
   Patient was also given vancomycin. Labs pertinent for a lactate of 4,
   left shift N 91.5%, platelets 122.
   According to family patient demonstrated increasing respiratory
   distress the past week and yesterday "lungs sounded junky". She was
   also increasingly somnelent and confused the past week. They denie
   fever, chills, abdominal pain, nausea, vomiting, headaches, vision
   changes, neck stiffness or chest pain. The do report decreased fluid
   intake.
   Of note, patient was recently admitted [**Date range (3) 13481**] for H1N1
   Influenza, COPD exacerbation with pseudomonas growing from sputum,
   urinary tract infection (+ ESBL). Patient discharged on Ertapenem for
   10 days total.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Meropenem - [**2153-2-10**] 05:05 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 92 (86 - 121) bpm
   BP: 118/62(82) {112/60(80) - 123/65(87)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 9)mmHg
   Total In:
                                                                  5,197 mL
   PO:
   TF:
   IVF:
                                                                  2,197 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    190 mL
   Urine:
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,007 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/58/171/31/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Intubated, sedated, withdraws from noxious stimuli
   CTA
   S1 S2
   NT, ND. ?soft
   No edema
   Ext warm, well perfused
   Labs / Radiology
   135 K/uL
   9.6 g/dL
   29.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2153-2-10**]  04:56 AM
                             [**2153-2-10**]  06:11 AM
                             [**2153-2-10**]  06:22 AM
   WBC
   7.5
   Hct
   29.7
   Plt
   135
   TCO2
   31
   32
   Other labs: Lactic Acid:0.9 mmol/L, LDH:175 IU/L
   Assessment and Plan
   78 y/o F bronchiectasis, severe COPD, tracheobronchomalacia s/p Y-stent
   who presents with respiratory distress and hypotension.
   .
   # Hypotension: Patient with elevated lactate concerning for shock,
   however no evidence of end organ damage (adequate urine output, normal
   creatinine). Concern for sepsis based on left shift and prior ESBL
   urinary tract infection and pseudomonas pneumonia. However, Ua
   negative, CXR no infiltrate , negative blood cultures to date and
   patient is afebrile. CVP 8 following 3 L NS suggesting hypovolemia and
   unlikely cardiac shock. It is possible due to increased somnelence
   patient significantly decreased po intake and is consequently
   hypovolemic without sepsis. No evidence of acute bleed, guaiac negative
   on exam.
   - Aggressive fluid resuscitation
   - Broad specturm antibiotics Vancomycin and Meropenum due to prior ESBL
   and pseudomonas sensitivities
   - A-line
   - Levophed for MAP > 60
   - Follow blood and urine cultures closely
   - CXR in am to eval for infiltrate following resuscitation
   - If patient decompensates consider further infectious work-up (no
   history of abdominal or menigitis symptoms)
   .
   # Respiratory Distress: Most likely secondary to COPD exacerbation with
   underlying component of tracheobronchomalacia and bronchiactesis.
   However, patient without obvious trigger such as infection or classic
   symptoms such as increased sputum therefore must consider other
   etiologies such as obstructed stent. Less likely are cardiac etiology
   (no chest pain), PE (no risk factors, multiple other reasons for
   distress) or PNA (no infiltrate on CXR).
   - Standing NEBs
   - Solmedrol 125 mg IV q6hr for 72 hours then taper
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenum)
   - Hold outpatient Ativan
   - CXR in am to eval for infiltrate following resuscitation
   - Monitor ABGs
   .
   # Acid Base Status: Respitory acidosis without adequate compensation
   most likely secondary overlying metabolic acidosis from elevated
   lactate.
   - Trend ABG, CO2 improving now on vent.
   .
   # Anemia: 31 from baseline 34-37. Guaiac negative on exam. Most likely
   dilutional from NS.
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: 122 from baseline 300. Most likely etiology
   infection, sepsis or dilutional effect. Normal coags, therefore
   unlikely DIC. No renal failure to suggest TTP.
   - trend daily
   .
   # COPD: see acute treatment above.
   .
   # Tracheobronchomalacia s/p Y stent placement: continue outpatient
   stent care.
   - Discuss re bronch with IP in am
   - Guaifenesin 600 mg Tablet [**Hospital1 **]
   - Acetylcysteine 20 % (200 mg/mL) Q 8H (Every 8 Hours).
   .
   # HTN: Continue outpatient Atenolol
   .
   # GERD: Continue Omeprazole and Sucralfate
   .
   # Hypothyroid: Continue outpatient Levothyroxine
   .
   # Hyperlipidemia: Continue outpatient Simvastatin
   .
   # Anxiety: Continue Mitrazapine 15 mg hs
   .
   # Med Rec: Continue ASA. Hold Methenamine Hippurate, Ativan
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: 18 gauge, multilumen
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement

2153-02-10 09:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-2-10**] 03:00 AM
 MULTI LUMEN - START [**2153-2-10**] 03:17 AM
   verified by xray
 EKG - At [**2153-2-10**] 03:38 AM
   Admitted to MICU service.
   Remains ventilated, off pressors.
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Meropenem - [**2153-2-10**] 05:05 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2153-2-10**] 08:30 AM
   Other medications:
   reviewed in [**Month (only) **], including vanco, [**Last Name (un) 614**], solumedrol, nebs, mucinex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-10**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 101 (86 - 121) bpm
   BP: 141/71(98) {106/60(77) - 141/71(98)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  5,212 mL
   PO:
   TF:
   IVF:
                                                                  2,212 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    250 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,962 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 33 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/58/171/29/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 570
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   135 K/uL
   135 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   18 mg/dL
   105 mEq/L
   139 mEq/L
   29.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2153-2-10**]  04:56 AM
                             [**2153-2-10**]  06:11 AM
                             [**2153-2-10**]  06:22 AM
   WBC
   7.5
   Hct
   29.7
   Plt
   135
   Cr
   0.5
   TCO2
   31
   32
   Glucose
   135
   Other labs: ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic Acid:0.9
   mmol/L, LDH:175 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   78-year-old woman with respiratory failure in the setting of COPD,
   bronchiectasis, and stent for TBM.
   Respiratory failure
   - some autoPEEP but tolerating
   - continue present vent settings for now, watching for worse autoPEEP
   - no present evidence for pneumonia or ARDS
   COPD exacerbation vs. bronchiectasis exacerbation
   - steroids, bronchodilators, mucinex
   - continue vanco and meropenem
   - review cultures and consider addition of second anti-pseudomonal
   [**Doctor Last Name **]
   - add atypical coverage
   Severe Sepsis
   - occult hypoperfusion appears to have resolved
   - fluids prn
   TBM s/p stent
   - bronchoscopy to exclude stent dislodgement and ensure correct ETT
   placement
   ICU Care
   Nutrition:
   Comments: begin TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   18 Gauge - [**2153-2-10**] 03:37 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Team met with family last night (sisters and brother - hcp = [**Name (NI) **] [**Name (NI) **])
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Called to see patient for tachycardia to 120s, then as high as 150.
   [image004.gif]
   Tachycardia is narrow complex, regular, with clear atrial activity.
   Breath sounds symmetric.  Vent peak pressures similar to prior; total
   PEEP only 10.  Denied pain but seemed anxious.
   Differential diagnosis is broad.  Will pursue diagnosis and therapy
   simultaneously:
          Bolus fluid
          Recheck Hct, type/cross, and check NG aspirate
 if (+) or
   falling, transfuse and assess further
          Sedate and provide analgesia
          Check EKG to exclude atrial tachycardia, though gentle
   increase in HR argues strongly against
          Disconnect from ventilator to ensure this is not occult
   occult PEEP
   If these do not diagnose or correct the tachycardia, then check CTA to
   exclude PE.
   If PE negative, above maneuvers not diagnostic, and blood pressure
   remains stable, can then consider beta blocker withdrawal.
   Critically ill: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2153-2-10**] 15:49 ------

2153-02-11 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2153-2-10**] 08:22 PM
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress. Per family increasing sleepiness, WOB, congestion over past
   week, especially past 2 days. Also confusion, decreased fluid intake.
   On [**2-9**] BIBA to OSH speaking one-word sentences, tripoding, ABG
   7.22/110/176/43. CXR reportedly RLL infiltrate, R pleural effusion.
   Intubated. Rec
d Solumedrol 125 mg IV, Levofloxacin, Zosyn.
   Transferred to [**Hospital1 19**] where in ED was bucking vent, started Propofol,
   became hypotensive, switched to Versed. Central line placed, 3 L NS,
   Vanco. Lactate of 4, left shift N 91.5%, platelets 122.
   Of note, recently admitted [**Date range (3) 13481**] for H1N1, COPD
   exacerbation with pseudomonas in sputum, UTI (+ ESBL). D/c
d on
   Ertapenem for 10 days total.
   .
   - IP bronchoscoped at bedside, saw small amount of granulation tissue
   and minimal secretions; Y-stent appropriately placed & all distal
   airway segments patent
   - tachycardic despite multiple IVF boluses and RBC transfusion
   - Hct 27.7 -> 1 RBC -> 31.7
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-10**] 10:24 AM
   Meropenem - [**2153-2-11**] 12:28 AM
   Vancomycin - [**2153-2-11**] 01:43 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2153-2-10**] 08:12 PM
   Famotidine (Pepcid) - [**2153-2-10**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-11**] 12:28 AM
   Midazolam (Versed) - [**2153-2-11**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-11**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 79 (79 - 122) bpm
   BP: 147/81(109) {104/61(78) - 152/100(123)} mmHg
   RR: 21 (20 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 7 (6 - 284)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  7,694 mL
                                                                    497 mL
   PO:
   TF:
                                                                     35 mL
                                                                     30 mL
   IVF:
                                                                  4,270 mL
                                                                    447 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    700 mL
                                                                    320 mL
   Urine:
                                                                    700 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,994 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 173 (173 - 173) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 181
   PIP: 35 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/46/147/30/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 490
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachy HR111
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   129 K/uL
   10.3 g/dL
   196 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   20 mg/dL
   106 mEq/L
   140 mEq/L
   31.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2153-2-10**]  04:56 AM
                             [**2153-2-10**]  06:11 AM
                             [**2153-2-10**]  06:22 AM
                             [**2153-2-10**]  04:02 PM
                             [**2153-2-10**]  07:45 PM
                             [**2153-2-11**]  02:29 AM
                             [**2153-2-11**]  02:45 AM
   WBC
   7.5
   9.2
   Hct
   29.7
   27.7
   31.7
   Plt
   135
   129
   Cr
   0.5
   0.6
   0.6
   TropT
   0.01
   TCO2
   31
   32
   28
   30
   Glucose
   135
   119
   196
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.7 mmol/L, LDH:175 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Likely [**1-23**] COPD exacerbation with underlying
   component of tracheobronchomalacia and bronchiactesis. Per family
   increasing sleepiness (c/w hypercarbia), WOB, congestion over past
   week, especially past 2 days. Also confusion, decreased fluid intake.
   Less etiologies likely are cardiac etiology (no chest pain), PE (no
   risk factors, multiple other reasons for distress) or PNA (no
   infiltrate on CXR). Bronchoscopy yesterday showed granulation tissue,
   appropriate Ystent placement and patent airways. Failed RSBI this
   morning.
   - Standing NEBs
   - Solumedrol 125 mg IV q6hr for 72 hours then taper (Day [**1-24**])
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals); Day 2/?10
   - Hold outpatient Ativan
   - Monitor ABGs
   .
   # Hypertension/tachycardia: ?anxiety/anger component
   - Fentanyl/Versed boluses PRN
   - Restarted Amlodipine this morning, Lopressor PRN
   - Consider CTA today given continued tachycardia with fluids/pRBC
   .
   # Hypotension: Patient with initial lactate concerning for shock, since
   improved, and no evidence of end organ damage (adequate urine output,
   normal creatinine). Known recent ESBL urinary tract infection and
   pseudomonas pneumonia. Admission U/A negative, CXR w/o infiltrate,
   negative blood cultures to date, afebrile. CVP 8 following 3 L NS
   suggesting hypovolemia. It is possible due to increased somnolence
   patient significantly decreased PO intake and is consequently
   hypovolemic without sepsis. No evidence of acute bleed, guaiac negative
   on exam.  Now resolved with aggressive resuscitation, antibiotics
 was
   briefly on Levophed
   - Follow blood and urine cultures
   - Daily CXR
   - If patient decompensates consider further infectious work-up (no
   history of abdominal or menigitis symptoms)
   # Acid Base Status: Respiratory acidosis without adequate compensation
   most likely secondary overlying metabolic acidosis from elevated
   lactate. Respiratory acidosis resolved.
   - Trend ABG, CO2 improving now on vent.
   .
   # Anemia: 31 from baseline 34-37. Guaiac negative on exam. Most likely
   dilutional from NS. Bumped appropriately to one unit pRBC yesterday
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: 122 from baseline 300. Most likely etiology
   infection, sepsis or dilutional effect. Normal coags, therefore
   unlikely DIC. No renal failure to suggest TTP.
   - trend daily
   .
   # COPD: see acute treatment above.
   .
   # Tracheobronchomalacia s/p Y stent placement: continue outpatient
   stent care.
   - Guaifenesin 600 mg Tablet [**Hospital1 **]
   - Acetylcysteine 20 % (200 mg/mL) Q 8H (Every 8 Hours).
   .
   # HTN: Continue outpatient Atenolol
   .
   # GERD: Continue Omeprazole and Sucralfate
   .
   # Hypothyroid: Continue outpatient Levothyroxine
   .
   # Hyperlipidemia: Continue outpatient Simvastatin
   .
   # Anxiety: Continue Mitrazapine 15 mg hs
   .
   # Med Rec: Continue ASA. Hold Methenamine Hippurate, Ativan
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: 18 gauge, multilumen, arterial line
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 ANEMIA, OTHER
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   18 Gauge - [**2153-2-10**] 03:37 AM
   Arterial Line - [**2153-2-10**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-02-12 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-2-11**] 03:14 PM
   .
   - Unable to tolerate 15/5, back on AC yesterday. RSBI 116 this AM but
   tolerated PSV for only a few minutes before becoming
wildly anxious.
   Tried Ativan 0.5mg PO w/ repeat PSV trial
   - CTA to r/o PE neg
   - Sputum cx sent
   - Discontinued Norvasc, still on Atenolol, trying propofol (vs.
   Fentanyl/Versed) - SBP120/130s
   - Updated son/daughter, amenable to code status discussion when
   extubated. Pt has sig anxiety at baseline, per family - has not slept
   flat or perpendicular Xmonths for fear of suffocating. ?Psych/SW
   consult for coping
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-11**] 12:00 PM
   Vancomycin - [**2153-2-12**] 01:41 AM
   Meropenem - [**2153-2-12**] 05:39 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2153-2-11**] 03:00 PM
   Famotidine (Pepcid) - [**2153-2-11**] 09:35 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-11**] 11:33 PM
   Midazolam (Versed) - [**2153-2-12**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-12**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 103) bpm
   BP: 130/67(82) {112/61(75) - 161/90(105)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (4 - 360)mmHg
   Total In:
                                                                  2,162 mL
                                                                    606 mL
   PO:
   TF:
                                                                    446 mL
                                                                     18 mL
   IVF:
                                                                  1,516 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    355 mL
   Urine:
                                                                  1,180 mL
                                                                    355 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 333 (333 - 333) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 116
   PIP: 37 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: ///32/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   10.5 g/dL
   208 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   32.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2153-2-10**]  04:56 AM
                             [**2153-2-10**]  06:11 AM
                             [**2153-2-10**]  06:22 AM
                             [**2153-2-10**]  04:02 PM
                             [**2153-2-10**]  07:45 PM
                             [**2153-2-11**]  02:29 AM
                             [**2153-2-11**]  02:45 AM
                             [**2153-2-12**]  02:04 AM
   WBC
   7.5
   9.2
   6.9
   Hct
   29.7
   27.7
   31.7
   32.1
   Plt
   135
   129
   154
   Cr
   0.5
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   31
   32
   28
   30
   Glucose
   135
   119
   196
   208
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.7 mmol/L, LDH:175 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Likely [**1-23**] COPD exacerbation with underlying
   component of tracheobronchomalacia and bronchiactesis. Per family
   increasing sleepiness (c/w hypercarbia), WOB, congestion over past
   week, especially past 2 days. Also confusion, decreased fluid intake.
   Less etiologies likely are cardiac etiology (no chest pain), PE (no
   risk factors, multiple other reasons for distress) or PNA (no
   infiltrate on CXR). Bronchoscopy showed granulation tissue, appropriate
   Ystent placement and patent airways. CTA negative for PE. Failed RSBI
   and PSV yesterday and this morning.
   - Trial PSV again this morning
 try with some Ativan pre-medication
   for anxiety
   - Standing NEBs
   - Solumedrol 125 mg IV q6hr for 72 hours then taper (Day [**2-21**])
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals); Day [**2-28**]
 will follow-up on sputum and other
   cultures tomorrow for need of antimicrobial coverage
   - Monitor ABGs when on PSV
 SBT
   .
   # Hypertension/tachycardia: ?anxiety/anger component
   - Continue with Propofol given good blood pressure control on it
   however, will likely need anxiolytic when weaning to extubate
   - Fentanyl/Versed boluses PRN
   - Restarted Lopressor [**Hospital1 7**]; will hold Norvasc for now given good blood
   pressure control
   .
   # Tracheobronchomalacia s/p Y stent placement: continue outpatient
   stent care.
   - Guaifenesin 600 mg Tablet [**Hospital1 **]
   - Acetylcysteine 20 % (200 mg/mL) Q 8H (Every 8 Hours).
   .
   # Hypotension: Resolved.
   - Follow blood and urine cultures
   - Daily CXR
   # Acid Base Status: Respiratory acidosis resolved.
   - Trend ABG, CO2 improving now on vent.
   .
   # Anemia: 31 from baseline 34-37. Guaiac negative on exam. Bumped
   appropriately to one unit pRBC and now stable in low 30s
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: 129 from baseline 300. Most likely etiology
   infection, sepsis or dilutional effect. Normal coags, therefore
   unlikely DIC. No renal failure to suggest TTP
   - trend daily
   .
   # COPD: see acute treatment above.
   .
   .
   # HTN: Continue outpatient Atenolol
   .
   # GERD: Continue Omeprazole and Sucralfate
   .
   # Hypothyroid: Continue outpatient Levothyroxine
   .
   # Hyperlipidemia: Continue outpatient Simvastatin
   .
   # Anxiety: Continue Mitrazapine 15 mg hs
   .
   # Med Rec: Continue ASA. Hold Methenamine Hippurate, Ativan
   .
   # FEN: No IVF, replete electrolytes. Tube feeds running
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: 18 gauge, multilumen, arterial line
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full; will re-address with family today
   # Disposition: ICU pending clinical improvement
 .H/O HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 ANEMIA, OTHER
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-12**] 05:38 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-02-13 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2153-2-12**] 03:00 PM
 ARTERIAL LINE - START [**2153-2-12**] 04:13 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-12**] 10:00 AM
   Vancomycin - [**2153-2-13**] 03:38 AM
   Meropenem - [**2153-2-13**] 06:39 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2153-2-12**] 08:36 PM
   Propofol - [**2153-2-12**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-12**] 10:36 PM
   Fentanyl - [**2153-2-13**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 78 (56 - 91) bpm
   BP: 134/68(92) {107/60(78) - 186/94(129)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 19 (2 - 292)mmHg
   Total In:
                                                                  2,431 mL
                                                                    786 mL
   PO:
   TF:
                                                                    406 mL
                                                                    221 mL
   IVF:
                                                                  1,965 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    420 mL
   Urine:
                                                                  1,400 mL
                                                                    400 mL
   NG:
                                                                     10 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  1,021 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 9 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/47/107/35/8
   Ve: 8.9 L/min
   PaO2 / FiO2: 357
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   10.7 g/dL
   114 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.6 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   32.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2153-2-10**]  06:11 AM
                             [**2153-2-10**]  06:22 AM
                             [**2153-2-10**]  04:02 PM
                             [**2153-2-10**]  07:45 PM
                             [**2153-2-11**]  02:29 AM
                             [**2153-2-11**]  02:45 AM
                             [**2153-2-12**]  02:04 AM
                             [**2153-2-12**]  05:20 PM
                             [**2153-2-12**]  10:20 PM
                             [**2153-2-13**]  03:06 AM
   WBC
   7.5
   9.2
   6.9
   8.1
   Hct
   29.7
   27.7
   31.7
   32.1
   32.2
   Plt
   135
   129
   154
   144
   Cr
   0.5
   0.6
   0.6
   0.6
   0.4
   TropT
   0.01
   TCO2
   32
   28
   30
   35
   35
   Glucose
   135
   119
   196
   208
   114
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.5 mmol/L, LDH:175 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Imaging: [**2-12**] CXR: : As compared to the previous radiograph, the
   position of the nasogastric tube, the endotracheal tube and the
   right-sided central venous access lines are unchanged. Also unchanged
   is the _____ tube in the trachea.  There is no evidence of interval
   recurrence of focal parenchymal opacities suggesting pneumonia. Minimal
   blunting of the right costophrenic sinus.  nchanged appearance of the
   hilar and mediastinal structures, unchanged size of the cardiac
   silhouette. No pneumothorax. Unchanged large lung volumes
   suggesting overinflation.
   [**2-13**] CXR: Pending
   Microbiology: [**2-10**] BCx, UCx: Pending
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Likely [**1-23**] COPD exacerbation with underlying
   component of tracheobronchomalacia and bronchiactesis. Initial
   bronchoscopy showed granulation tissue, appropriate Y-stent placement.
   CTA negative for PE, showed some ?fluid beneath stent. Thus, second
   bronchoscopy was done which showed some secretions around stent/ETT
   which was suctioned, mild repositioning of stent (higher up). Failed
   RSBI and PSV again yesterday night and this morning. Has auto-PEEP of 5
   due to breath stacking. Now on Assist Control again .
   - Plan to attempt again to wean to pressure support again this
   afternoon
   - Watch for auto-PEEP and breath stacking
   - Standing NEBs
   - Prednisone 60mg (first taper today from Solumedrol 125mg IV q8)
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals); Day [**3-31**] given MRSA+ screen.
   - Monitor I/O
   # Hypertension/tachycardia: Improved since changed to Propofol, with
   Fentanyl boluses prn (25 mcg). Does become hypertensive when ventilator
   weaning attempted.
   - Continue with Propofol
   - Fentanyl boluses PRN
   - Restarted Lopressor [**Hospital1 7**] (but half home dose at 12.5 [**Hospital1 7**]); will hold
   Norvasc given good blood pressure control
   .
   # Tracheobronchomalacia s/p Y stent placement: continue outpatient
   stent care.
   - Guaifenesin 600 mg Tablet [**Hospital1 **]
   - Acetylcysteine 20 % (200 mg/mL) Q 8H
   .
   # Hypotension: Resolved.
   - Follow blood and urine cultures
   - Daily CXR
   # Acid Base Status: Respiratory acidosis resolved.
   - Trend ABG, CO2 improving now on vent.
   .
   # Anemia: Bumped appropriately to one unit pRBC and now stable in low
   30s
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: 144 from baseline 300. Most likely etiology
   infection, sepsis or dilutional effect. Normal coags, therefore
   unlikely DIC. No renal failure to suggest TTP
   - Trend daily
   .
   # PT: She is a good candidate for PT and OOB.
   .
   # HTN: outpatient Atenolol
   # GERD: Omeprazole and Sucralfate
   # Hypothyroid: outpatient Levothyroxine
   # Hyperlipidemia: outpatient Simvastatin
   # Anxiety: Mitrazapine 15 mg hs
   # Med Rec: Continue ASA. Hold Methenamine Hippurate, Ativan
   .
   # FEN: No IVF, replete electrolytes. Tube feeds running w/30 mL water
   flushes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: 18 gauge, Multi Lumen - [**2153-2-10**] 03:17 AM, we will place an
   A line today
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-13**] 03:07 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-02-14 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased lopressor to 25 mg [**Hospital1 7**]
   - Hypertensive, tachycardic and agitated with decreased AM vent
   settings. Deferred next trial to tomorrow.
   This AM, HTN (MAP 130s), tachypneic (RR>40), sats 96 --> 90%. Resumed
   CMV/sedation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-13**] 10:00 AM
   Vancomycin - [**2153-2-13**] 06:00 PM
   Meropenem - [**2153-2-14**] 12:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-2-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-14**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 89 (74 - 114) bpm
   BP: 105/64(80) {102/62(80) - 160/108(114)} mmHg
   RR: 23 (21 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (5 - 9)mmHg
   Total In:
                                                                  2,459 mL
                                                                    571 mL
   PO:
   TF:
                                                                    721 mL
                                                                    222 mL
   IVF:
                                                                  1,423 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    240 mL
   Urine:
                                                                  2,530 mL
                                                                    240 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/53/81.[**Numeric Identifier 508**]/38/12
   Ve: 9.5 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   134 K/uL
   10.8 g/dL
   108 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-2-10**]  04:02 PM
                             [**2153-2-10**]  07:45 PM
                             [**2153-2-11**]  02:29 AM
                             [**2153-2-11**]  02:45 AM
                             [**2153-2-12**]  02:04 AM
                             [**2153-2-12**]  05:20 PM
                             [**2153-2-12**]  10:20 PM
                             [**2153-2-13**]  03:06 AM
                             [**2153-2-14**]  03:23 AM
                             [**2153-2-14**]  03:44 AM
   WBC
   9.2
   6.9
   8.1
   9.0
   Hct
   27.7
   31.7
   32.1
   32.2
   33.8
   Plt
   129
   154
   144
   134
   Cr
   0.6
   0.6
   0.6
   0.4
   0.5
   TCO2
   28
   30
   35
   35
   40
   Glucose
   119
   196
   208
   114
   108
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.5 mmol/L, LDH:175 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Likely [**1-23**] COPD exacerbation with underlying
   component of tracheobronchomalacia and bronchiactesis. Initial
   bronchoscopy showed granulation tissue, appropriate Y-stent placement.
   CTA negative for PE, showed some ?fluid beneath stent. Thus, second
   bronchoscopy was done which showed some secretions around stent/ETT
   which was suctioned, mild repositioning of stent (higher up). Failed
   RSBI and PSV again yesterday and this morning. Has auto-PEEP of 5 due
   to breath stacking. Now on Assist Control again.
   - Will try to optimize patient for weaning: antibiotics, steroids,
   nebs, positioning, anxiety management
   - Watch for auto-PEEP and breath stacking
   - Standing NEBs
   - Prednisone 60mg (Day 2 Pred from Solumedrol 125mg IV q8 taper)
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals); Day [**4-30**] given MRSA+ screen.
   - Monitor I/O
   # Hypertension/tachycardia: Improved since changed to Propofol, with
   Fentanyl boluses prn (25 mcg). Does become hypertensive when ventilator
   weaning attempted.
   - Continue with Propofol
   - Fentanyl boluses PRN
   - Restarted Lopressor [**Hospital1 7**] and increased to home dose (25mg [**Hospital1 7**]); will
   hold Norvasc given good blood pressure control
   .
   # Tracheobronchomalacia s/p Y stent placement: continue outpatient
   stent care.
   - Guaifenesin 600 mg Tablet [**Hospital1 **]
   - Acetylcysteine 20 % (200 mg/mL) Q 8H
   .
   # Hypotension: Resolved. Now on home lopressor dose
   - Follow blood and urine cultures
   - Daily CXR
   # Acid Base Status: Respiratory acidosis resolved.
   - Trend ABG, CO2 improving now on vent.
   .
   # Anemia: Bumped appropriately to one unit pRBC and now stable in low
   30s
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: 144 from baseline 300. Most likely etiology
   infection, sepsis or dilutional effect. Normal coags, therefore
   unlikely DIC. No renal failure to suggest TTP
   - Trend daily
   .
   # PT: She is a good candidate for PT and OOB.
   .
   # HTN: outpatient Atenolol
   # GERD: Omeprazole and Sucralfate
   # Hypothyroid: outpatient Levothyroxine
   # Hyperlipidemia: outpatient Simvastatin
   # Anxiety: Mitrazapine 15 mg hs
   # Med Rec: Continue ASA. Hold Methenamine Hippurate, Ativan
   .
   # FEN: No IVF, replete electrolytes. Tube feeds running w/30 mL water
   flushes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: 18 gauge, Multi Lumen - [**2153-2-10**] 03:17 AM, we will place an
   A line today
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 .H/O HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 ANEMIA, OTHER
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-13**] 07:46 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-02-15 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2153-2-14**] 07:56 PM
   done at [**2097**]
   - Failed PSV again. Also, autoPEEP 2 --> 11. Will try SBT again in AM
   - Cultures NGTD
   - Resumed Solumedrol 125mg q8h; consider d/c beta blocker
   - PT following, not seen her since Monday given sedation
   - Another episode of ?AVNRT ~ 1am
   - Lasix 20 IV diuresis for +10L LOS and incr peripheral edema
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-14**] 09:45 AM
   Vancomycin - [**2153-2-14**] 08:14 PM
   Meropenem - [**2153-2-15**] 12:08 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2153-2-14**] 11:20 AM
   Famotidine (Pepcid) - [**2153-2-14**] 08:14 PM
   Furosemide (Lasix) - [**2153-2-14**] 09:59 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-15**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-15**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 81 (74 - 98) bpm
   BP: 137/77(99) {112/63(83) - 165/88(116)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (3 - 7)mmHg
   Total In:
                                                                  2,905 mL
                                                                    472 mL
   PO:
   TF:
                                                                    721 mL
                                                                     58 mL
   IVF:
                                                                  1,735 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    735 mL
   Urine:
                                                                  2,020 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 78
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/50/77.[**Numeric Identifier 143**]/38/12
   Ve: 9.9 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases, L > R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   134 K/uL
   11.3 g/dL
   167 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   23 mg/dL
   99 mEq/L
   141 mEq/L
   34.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2153-2-11**]  02:45 AM
                             [**2153-2-12**]  02:04 AM
                             [**2153-2-12**]  05:20 PM
                             [**2153-2-12**]  10:20 PM
                             [**2153-2-13**]  03:06 AM
                             [**2153-2-14**]  03:23 AM
                             [**2153-2-14**]  03:44 AM
                             [**2153-2-14**]  07:31 PM
                             [**2153-2-15**]  01:43 AM
                             [**2153-2-15**]  01:56 AM
   WBC
   6.9
   8.1
   9.0
   6.3
   Hct
   32.1
   32.2
   33.8
   34.6
   Plt
   154
   144
   134
   134
   Cr
   0.6
   0.4
   0.5
   0.5
   TCO2
   30
   35
   35
   40
   37
   39
   Glucose
   [**Telephone/Fax (3) 13618**]67
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.5 mmol/L, LDH:175 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Imaging: [**2-14**] CXR: As compared to the previous image from [**2153-2-13**], the lung volumes are unchanged. Unchanged size of the cardiac
   silhouette, unchanged
   appearance of the lung parenchyma, no evidence of interval recurrence
   of focal parenchymal opacities suggesting pneumonia. A newly occurred
   left-sided paracostal linear structure is likely to represent a skin
   fold (similar to
   [**2153-2-10**]). No larger pleural effusions. No pulmonary edema.
   Unchanged position of the Y-stent.
   [**2-15**] CXR: Pending
   Microbiology: [**2-11**] Sputum:    GRAM STAIN (Final [**2153-2-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2153-2-13**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Continues to become hypertensive and
   tachycardic with SBT's, although RSBI improving. Remains on Assist
   Control. [**Month (only) 51**] have anxiety component--patient has lorazepam listed as
   home medication on OMR, has not been receiving here. [**10-31**] note from
   PCP states that lung disease is object of patient's anxiety. Steroids
   may also be exacerbating any existing psychological component to
   respiratory distress.
   - Lasix boluses for edema, goal negative [**Telephone/Fax (1) 179**] cc/24 hrs
   - Start standing lorazepam at home PRN dose
   - C/w mirtazipine
   - Watch for auto-PEEP and breath stacking
   - Standing NEBs
   - C/w Solumedrol 125mg IV q8
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals; all started on [**2-10**]) and MRSA+ screen.
   - Monitor I/O
   # Hypertension/tachycardia: Most elevated with attempts to wean
   ventilator. Otherwise in moderately good control
   - Management of anxiety as above
   - Continue with Propofol
   - Fentanyl boluses PRN
   - Restarted Lopressor [**Hospital1 7**] and increased to home dose (25mg [**Hospital1 7**]);
   continue holding Norvasc as anxiety appears to be preciptating factor
   .
   # Tracheobronchomalacia s/p Y stent placement: S/p 2 bronchoscopies.
   Continue outpatient stent care (Guaifenesin, Acetylcysteine)
   .
   # Anemia: Stable. No active bleeding observed.
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: Stable
   - Trend daily
   .
   # GERD: famotidine and Sucralfate
   # Hypothyroid: outpatient Levothyroxine
   # Hyperlipidemia: outpatient Simvastatin
   # Anxiety: Mitrazapine 15 mg hs, will restart ativan as above
   # Med Rec: Continue ASA. Hold Methenamine Hippurate
   .
   # FEN: No IVF, replete electrolytes. Tube feeds running w/30 mL water
   flushes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: radial line. CVL.
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement. PT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-02-16 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Another episode of ?AVNRT ~ 1am
   - Lasix 20 IV diuresis for +10L LOS and incr peripheral edema: -2 L off
   yesterday
   - Ativan ordered as [**Hospital1 7**]
   - Continues to be more alkalotic on gas, we decreased rate on vent
   - Changed from AC to PS at 0100, with sedation, doing well on
   - SBT in AM: Became tachy, HTNive, agitated during, now back on PS 18/5
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-15**] 10:00 AM
   Vancomycin - [**2153-2-15**] 08:07 PM
   Meropenem - [**2153-2-16**] 05:55 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2153-2-15**] 08:00 AM
   Furosemide (Lasix) - [**2153-2-15**] 11:00 AM
   Famotidine (Pepcid) - [**2153-2-15**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-16**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-16**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 91 (69 - 108) bpm
   BP: 136/80(99) {118/66(86) - 179/93(124)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
              +8.5 L LOS
   Total In:
                                                                  1,854 mL
                                                                    551 mL
   PO:
                        TF:
                                                                    361 mL
                                                                    154 mL
   IVF:
                                                                  1,254 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    250 mL
   Urine:
                                                                  3,440 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,586 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 404 (360 - 404) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.47/52/75/38/11
   Ve: 10.5 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Intubated, alert, calm
   CTA
   S1 S2
   Soft NT ND
   Warm extremities
   Labs / Radiology
   163 K/uL
   11.2 g/dL
   160 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.2 mEq/L
   28 mg/dL
   99 mEq/L
   140 mEq/L
   34.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2153-2-14**]  03:23 AM
                             [**2153-2-14**]  03:44 AM
                             [**2153-2-14**]  07:31 PM
                             [**2153-2-15**]  01:43 AM
                             [**2153-2-15**]  01:56 AM
                             [**2153-2-15**]  03:05 PM
                             [**2153-2-15**]  08:31 PM
                             [**2153-2-15**]  10:19 PM
                             [**2153-2-16**]  01:32 AM
                             [**2153-2-16**]  01:46 AM
   WBC
   9.0
   6.3
   10.7
   Hct
   33.8
   34.6
   34.0
   Plt
   134
   134
   163
   Cr
   0.5
   0.5
   0.6
   0.6
   TCO2
   40
   37
   39
   40
   40
   39
   Glucose
   108
   167
   181
   160
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:0.5 mmol/L, LDH:175 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Continues to become hypertensive and
   tachycardic with SBT's, although RSBI improving. On PS. Status seems to
   be improving with diuresis, she is +8.5 for LOS. COPD/bronchiectasis
   exacerbation vs fluid overload.
   - Consider repeat SBT this afternoon
   - Lasix boluses for edema, goal negative 1-2 L; PM lytes
   - Watch for auto-PEEP and breath stacking
   - Standing NEBs
   - C/w Solumedrol 125mg IV q8
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals; all started on [**2-10**]) and MRSA+ screen. How long
   before D/C given afebrile, normal WBCs, NGTD?
   - Monitor I/O
    # Tracheobronchomalacia s/p Y stent placement: S/p 2 bronchoscopies.
   Continue outpatient stent care (Guaifenesin, Acetylcysteine)
   - Stent in place by bronch
   # Hypertension/tachycardia: Most elevated with attempts to wean
   ventilator. Otherwise in moderately good control. Since these changes
   are associated with attempts to wean, likely represent not so much
   anxiety as respiratory distress
   - Continue home Lopressor
   - Holding home amlodipine given long-acting nature; consider adding
   short-acting ACE inhibitor vs hydralazine for added control
   .
   # Anemia: Stable. No active bleeding.
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: Stable
   - Trend daily
   .
   # GERD: famotidine and Sucralfate
   # Hypothyroid: c/w Levothyroxine
   # Hyperlipidemia: c/w Simvastatin
   # Anxiety: Mitrazapine 15 mg hs & ativan Q12
   # Med Rec: Continue ASA. Hold Methenamine Hippurate
   .
   # FEN: No IVF, replete electrolytes. Turn off Tube feeds for possible
   SBT/extubation
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: radial line. CVL
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement. PT recs

2153-02-17 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-2-16**] 04:00 PM
 NON-INVASIVE VENTILATION - START [**2153-2-16**] 04:00 PM
   .
   [**2-15**]:
   - Another episode of ?AVNRT ~ 1am
   - Lasix 20 IV diuresis for +10L LOS and incr peripheral edema: -100 cc
   at noon
   - Ativan ordered as [**Hospital1 7**]
   - Continues to be more alkalotic on gas, we decreased rate on vent
   - Changed from AC to PS at 0100, with sedation, doing well on
   - SBT in AM
   [**2-16**]:
   - Extubated --> reintubated ~6:15 am; had been tachy/tachypneic all day
   with some relief from ativan
 combative/restlessdiaphoretic
   unresponsive
   - Significantly hypertensive to SBP ~ 200 -> nitro gtt
   - 2.9 liters negative at 1700 after Lasix 40mg IV
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-15**] 08:07 PM
   Levofloxacin - [**2153-2-16**] 10:00 AM
   Meropenem - [**2153-2-17**] 06:46 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-2-16**] 12:00 PM
   Famotidine (Pepcid) - [**2153-2-16**] 07:32 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-17**] 12:25 AM
   Metoprolol - [**2153-2-17**] 02:00 AM
   Lorazepam (Ativan) - [**2153-2-17**] 05:15 AM
   Hydralazine - [**2153-2-17**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-17**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 91 (77 - 138) bpm
   BP: 207/97(139) {131/67(91) - 210/123(156)} mmHg
   RR: 28 (21 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 4 (4 - 5)mmHg
   Total In:
                                                                  2,599 mL
                                                                    302 mL
   PO:
   TF:
                                                                    274 mL
   IVF:
                                                                  2,195 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                    250 mL
   Urine:
                                                                  4,740 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,141 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Spontaneous): 330 (292 - 369) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.35/72/114/44/11
   Ve: 7.8 L/min
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Sedated, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   12.3 g/dL
   125 mg/dL
   0.6 mg/dL
   44 mEq/L
   4.0 mEq/L
   33 mg/dL
   101 mEq/L
   148 mEq/L
   37.8 %
   14.6 K/uL
        [image002.jpg]
                             [**2153-2-15**]  10:19 PM
                             [**2153-2-16**]  01:32 AM
                             [**2153-2-16**]  01:46 AM
                             [**2153-2-16**]  08:57 AM
                             [**2153-2-16**]  12:54 PM
                             [**2153-2-16**]  03:11 PM
                             [**2153-2-16**]  03:26 PM
                             [**2153-2-16**]  06:03 PM
                             [**2153-2-17**]  04:30 AM
                             [**2153-2-17**]  06:12 AM
   WBC
   10.7
   14.6
   Hct
   34.0
   37.8
   Plt
   163
   284
   Cr
   0.6
   0.6
   0.6
   TCO2
   40
   39
   41
   43
   47
   46
   41
   Glucose
   160
   146
   125
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:1.0 mmol/L, LDH:175 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Continues to become hypertensive and
   tachycardic with SBT's, although RSBI was improving. Status seemed to
   be improving with diuresis, she is +6-7L LOS. COPD/bronchiectasis
   exacerbation vs fluid overload. Reintubated this morning after
   fatiguing
   - Will update family regarding need to reintubate this morning
   - Continue lasix boluses for edema, goal negative 1-2 L
   - PM electrolytes
   - Watch for auto-PEEP and breath stacking
   - Standing NEBs
   - C/w Solumedrol 125mg IV q8
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals; all started on [**2-10**]) and MRSA+ screen. Now Day
   [**7-31**].
   - Monitor I/O
    # Tracheobronchomalacia s/p Y stent placement: S/p 2 bronchoscopies.
   Continue outpatient stent care (Guaifenesin, Acetylcysteine)
   - Stent in place by bronch
   # Hypertension/tachycardia: Most elevated with attempts to wean
   ventilator. Otherwise in moderately good control. Since these changes
   are associated with attempts to wean, likely represent not so much
   anxiety as respiratory distress
   - Continue home Lopressor
   - Wean off nitro gtt given reintubation and Propofol gtt currently
   - Holding home amlodipine given long-acting nature; consider adding
   short-acting ACE inhibitor vs hydralazine for added control PRN
   .
   # Anemia: Stable. No active bleeding.
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: Stable
   - Trend daily
   .
   # GERD: famotidine and Sucralfate
   # Hypothyroid: c/w Levothyroxine
   # Hyperlipidemia: c/w Simvastatin
   # Anxiety: Mitrazapine 15 mg hs & ativan Q12
   # Med Rec: Continue ASA. Hold Methenamine Hippurate
   .
   # FEN: No IVF, replete electrolytes. Turn off Tube feeds for possible
   SBT/extubation
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: Radial line. CVL
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement. PT recs
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 .H/O HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 ANEMIA, OTHER
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-17 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with COPD, bronchiectasis, recurrent respiratory failure.
   Extubated yesterday, required reintubation this morning for worsening
   respiratory failure.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-2-16**] 04:00 PM
 NON-INVASIVE VENTILATION - START [**2153-2-16**] 04:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-16**] 10:00 AM
   Meropenem - [**2153-2-17**] 06:46 AM
   Vancomycin - [**2153-2-17**] 08:10 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-2-16**] 12:00 PM
   Famotidine (Pepcid) - [**2153-2-16**] 07:32 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-17**] 12:25 AM
   Lorazepam (Ativan) - [**2153-2-17**] 05:15 AM
   Hydralazine - [**2153-2-17**] 05:39 AM
   Metoprolol - [**2153-2-17**] 08:11 AM
   Other medications:
   methylpred 125mg q6h.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-17**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 125 (91 - 146) bpm
   BP: 101/65(76) {95/65(76) - 210/123(156)} mmHg
   RR: 28 (21 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 6 (4 - 6)mmHg
   Total In:
                                                                  2,599 mL
                                                                    586 mL
   PO:
   TF:
                                                                    274 mL
   IVF:
                                                                  2,195 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                    295 mL
   Urine:
                                                                  4,740 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,141 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 330 (292 - 369) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 34 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.43/57/71/44/10
   Ve: 9.3 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   284 K/uL
   125 mg/dL
   0.6 mg/dL
   44 mEq/L
   4.0 mEq/L
   33 mg/dL
   101 mEq/L
   148 mEq/L
   37.8 %
   14.6 K/uL
        [image002.jpg]
                             [**2153-2-16**]  01:32 AM
                             [**2153-2-16**]  01:46 AM
                             [**2153-2-16**]  08:57 AM
                             [**2153-2-16**]  12:54 PM
                             [**2153-2-16**]  03:11 PM
                             [**2153-2-16**]  03:26 PM
                             [**2153-2-16**]  06:03 PM
                             [**2153-2-17**]  04:30 AM
                             [**2153-2-17**]  06:12 AM
                             [**2153-2-17**]  07:54 AM
   WBC
   10.7
   14.6
   Hct
   34.0
   37.8
   Plt
   163
   284
   Cr
   0.6
   0.6
   0.6
   TCO2
   39
   41
   43
   47
   46
   41
   39
   Glucose
   160
   146
   125
   Other labs: CK / CKMB / Troponin-T:/5/0.01, ALT / AST:25/35, Alk Phos /
   T Bili:38/0.1, Lactic Acid:1.0 mmol/L, LDH:175 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Severe COPD, TBM.  Required reintubation for
   respiratory distress.   Had been aggressively diuresed before
   extubation, pulmonary
   edema less likely cause.  can check cardiac enzymes to r/o ischemia.
   That would suggest underlying disease is major cause of recurrent
   respiratory failure.
   Currently is having increased effort and looks uncomfortable on the
   [**Last Name (LF) 494**], [**First Name3 (LF) **] try to sedate her more heavily.
   - start weaning steroids as she is on a high dose.
   TBM:  has Y-stent, ETT is not telescoped into stent - will contact IP
   on whether ETT should be advanced into stent.
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-02-18 08:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2153-2-18**] 02:34 AM
   right lower extremety
   [**2-17**]:
   - Combative/diaphoretic --> unresponsive --> reintubated at 6:15AM
   - Cardiac enzymes: 29, 3, <0.01
   - IP reviewed CXR and feels Ystent in place
   - Mild hyperNa at 148 --> 143 with free water flush
   - Cold right foot w/o edema and +PT pulse but DP/PT "sluggish" on right
   vs. left. Got RUE LENI...
   - Family meeting: Reasonable, will discuss code status/goals of care
   with her, eh about trach. ** Want to be at bedside next time extubation
   is tried
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-17**] 10:41 AM
   Meropenem - [**2153-2-18**] 05:30 AM
   Vancomycin - [**2153-2-18**] 08:03 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Metoprolol - [**2153-2-17**] 02:30 PM
   Propofol - [**2153-2-17**] 06:15 PM
   Midazolam (Versed) - [**2153-2-17**] 08:15 PM
   Fentanyl - [**2153-2-17**] 08:15 PM
   Famotidine (Pepcid) - [**2153-2-18**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2153-2-18**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-18**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 120) bpm
   BP: 104/59(74) {73/52(59) - 144/71(93)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (7 - 9)mmHg
   Total In:
                                                                  2,780 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                    501 mL
                                                                    256 mL
   IVF:
                                                                  2,014 mL
                                                                    695 mL
   Blood products:
   Total out:
                                                                    817 mL
                                                                    437 mL
   Urine:
                                                                    817 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,963 mL
                                                                    564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.42/67/117/41/15
   Ve: 6.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   9.9 g/dL
   157 mg/dL
   0.5 mg/dL
   41 mEq/L
   4.2 mEq/L
   36 mg/dL
   101 mEq/L
   142 mEq/L
   30.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2153-2-16**]  06:03 PM
                             [**2153-2-17**]  04:30 AM
                             [**2153-2-17**]  06:12 AM
                             [**2153-2-17**]  07:54 AM
                             [**2153-2-17**]  04:30 PM
                             [**2153-2-17**]  04:35 PM
                             [**2153-2-18**]  03:09 AM
                             [**2153-2-18**]  06:26 AM
                             [**2153-2-18**]  07:40 AM
                             [**2153-2-18**]  07:46 AM
   WBC
   14.6
   8.8
   10.1
   Hct
   37.8
   30.4
   30.0
   Plt
   [**Telephone/Fax (3) 13697**]
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   0.02
   TCO2
   46
   41
   39
   39
   44
   45
   Glucose
   125
   138
   157
   Other labs: PT / PTT / INR:11.5/44.1/1.0, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic
   Acid:0.6 mmol/L, LDH:175 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   .
   # Respiratory Distress: Reintubated yesterday, cardiac enzymes flat
   suggestive of primary pulmonary disease/fatiguing causing respiratory
   distress and need to reintubate. Continues to become hypertensive and
   tachycardic with SBT's, although RSBI was improving. Tolerated brief
   PSV trial this morning on Fentanyl/Versed but concern for oversedation.
   Status seemed to be improving with diuresis, she is +6-7L LOS.
   COPD/bronchiectasis exacerbation vs fluid overload. Reintubated
   yesterday after fatiguing. Family updated and would like to be at
   bedside when extubated.
   - Watch for auto-PEEP and breath stacking
   - Lasix diuresis again today for goal -1L for optimizing respiratory
   status prior to repeat trial extubation
   - Standing NEBs
   - Taper steroids
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals; all started on [**2-10**]) and MRSA+ screen. Now Day
   [**8-31**].
   - Monitor I/O
    # Tracheobronchomalacia s/p Y stent placement: S/p 2 bronchoscopies.
   Continue outpatient stent care (Guaifenesin, Acetylcysteine)
   - Stent in place by bronch
   # Hypertension/tachycardia: Most elevated with attempts to wean
   ventilator. Otherwise in good control and hypotensive intermittently on
   sedation. Since these changes are associated with attempts to wean,
   likely represent not so much anxiety as respiratory distress. Does have
   anxiety when extubated and off sedation.
   - Continue home Lopressor for rate control, with holding parameters
   - Holding other anti-hypertensives, now that BP has dropped with
   intubation/sedation (was switched to Fentanyl/versed from Propofol
   overnight to manage intermittent hypotension)
   .
   # Anemia: Stable. No active bleeding.
   - Active T&S
   - Trend HCT daily
   .
   # Thrombocytopenia: Stable
   - Trend daily
   .
   # GERD: famotidine and Sucralfate
   # Hypothyroid: c/w Levothyroxine
   # Hyperlipidemia: c/w Simvastatin
   # Anxiety: Mitrazapine 15 mg hs & ativan Q12
   # Med Rec: Continue ASA. Hold Methenamine Hippurate
   .
   # FEN: No IVF, replete electrolytes. Restart Tube feeds, increase free
   water flushes given mild hypernatremia
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: Radial line. CVL
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-17**] 11:58 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-18 11:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with repiratory failure.  severe COPD/TBM, failed once on
   this admission.
   24 Hour Events:
 ULTRASOUND - At [**2153-2-18**] 02:34 AM
   right lower extremety
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Meropenem - [**2153-2-18**] 05:30 AM
   Vancomycin - [**2153-2-18**] 08:03 AM
   Levofloxacin - [**2153-2-18**] 10:44 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Metoprolol - [**2153-2-17**] 02:30 PM
   Propofol - [**2153-2-17**] 06:15 PM
   Midazolam (Versed) - [**2153-2-17**] 08:15 PM
   Fentanyl - [**2153-2-17**] 08:15 PM
   Famotidine (Pepcid) - [**2153-2-18**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2153-2-18**] 08:03 AM
   Other medications:
   heparin
   SSI
   alubuterol
   levoxyl
   mirtazipine
   asa
   atrovent
   chlorhexidine
   lopressor
   medrol 60mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-18**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 76 (70 - 120) bpm
   BP: 97/56(70) {85/52(63) - 144/71(93)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 9 (7 - 9)mmHg
   Total In:
                                                                  2,780 mL
                                                                  1,440 mL
   PO:
   TF:
                                                                    501 mL
                                                                    329 mL
   IVF:
                                                                  2,014 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                    817 mL
                                                                    437 mL
   Urine:
                                                                    817 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,963 mL
                                                                  1,003 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.42/67/117/41/15
   Ve: 6.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, moving all 4
   extremities on command
   Labs / Radiology
   9.9 g/dL
   196 K/uL
   157 mg/dL
   0.5 mg/dL
   41 mEq/L
   4.2 mEq/L
   36 mg/dL
   101 mEq/L
   142 mEq/L
   30.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2153-2-16**]  06:03 PM
                             [**2153-2-17**]  04:30 AM
                             [**2153-2-17**]  06:12 AM
                             [**2153-2-17**]  07:54 AM
                             [**2153-2-17**]  04:30 PM
                             [**2153-2-17**]  04:35 PM
                             [**2153-2-18**]  03:09 AM
                             [**2153-2-18**]  06:26 AM
                             [**2153-2-18**]  07:40 AM
                             [**2153-2-18**]  07:46 AM
   WBC
   14.6
   8.8
   10.1
   Hct
   37.8
   30.4
   30.0
   Plt
   [**Telephone/Fax (3) 13697**]
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   0.02
   TCO2
   46
   41
   39
   39
   44
   45
   Glucose
   125
   138
   157
   Other labs: PT / PTT / INR:11.5/44.1/1.0, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic
   Acid:0.6 mmol/L, LDH:175 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   Respiratory failure:  COPD and TBM.  Reintubed yesterday.  Breathing
   more comfortably today.  Can try to lighten sedation and do PSV.
   Fluid overload:  diurese with lasix.
   PNA.  day [**8-31**] of vanco/[**Last Name (un) 614**]/levo for PNA.
   anemia: stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-17**] 11:58 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-02-19 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events
   SBT this morning, remains on SBT at this time.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-18**] 10:44 AM
   Vancomycin - [**2153-2-18**] 08:06 PM
   Meropenem - [**2153-2-19**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-2-18**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-19**] 12:02 AM
   Famotidine (Pepcid) - [**2153-2-19**] 12:59 AM
   Fentanyl - [**2153-2-19**] 06:15 AM
   Metoprolol - [**2153-2-19**] 06:15 AM
   Midazolam (Versed) - [**2153-2-19**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-19**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 168 (70 - 168) bpm
   BP: 245/139(179) {89/55(67) - 245/139(179)} mmHg
   RR: 22 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 12 (-1 - 12)mmHg
   Total In:
                                                                  2,861 mL
                                                                    740 mL
   PO:
   TF:
                                                                    721 mL
                                                                    218 mL
   IVF:
                                                                  1,655 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  3,697 mL
                                                                    750 mL
   Urine:
                                                                  3,697 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 344 (308 - 400) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 86
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.40/77.[**Numeric Identifier 143**]/91.[**Numeric Identifier 143**]/43/18
   Ve: 4.2 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Pulmonary: Right crackles
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   10.2 g/dL
   154 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.8 mEq/L
   36 mg/dL
   93 mEq/L
   139 mEq/L
   32.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2153-2-17**]  07:54 AM
                             [**2153-2-17**]  04:30 PM
                             [**2153-2-17**]  04:35 PM
                             [**2153-2-18**]  03:09 AM
                             [**2153-2-18**]  06:26 AM
                             [**2153-2-18**]  07:40 AM
                             [**2153-2-18**]  07:46 AM
                             [**2153-2-18**]  04:22 PM
                             [**2153-2-19**]  02:56 AM
                             [**2153-2-19**]  06:52 AM
   WBC
   8.8
   10.1
   16.8
   Hct
   30.4
   30.0
   32.0
   Plt
   194
   196
   216
   Cr
   0.5
   0.5
   0.5
   TropT
   0.02
   TCO2
   39
   39
   44
   45
   44
   50
   Glucose
   138
   157
   154
   Other labs: PT / PTT / INR:11.5/44.1/1.0, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic
   Acid:0.6 mmol/L, LDH:175 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   78F h/o bronchiectasis, tracheobronchomalacia s/p Y-stent, COPD with 2L
   02 requirement, pseudomonal URI cxs ([**10-30**]) p/w acute respiratory
   distress.
   # Respiratory Distress: Reintubated two days ago now on SBT. cardiac
   enzymes flat suggestive of primary pulmonary disease/fatiguing causing
   respiratory distress and need to reintubate. Continues to become
   hypertensive and tachycardic with SBT's, although RSBI was improving.
   Tolerated brief PSV trial this morning on Fentanyl/Versed but concern
   for oversedation. Status seemed to be improving with diuresis, she is
   +6-7L LOS. COPD/bronchiectasis exacerbation vs fluid overload.
   Reintubated yesterday after fatiguing. Family updated and would like to
   be at bedside when extubated.
   - Watch for auto-PEEP and breath stacking
   - Stop diuresis, fluid goal even for now; if CVP remains low consider
   giving back some fluid
   - Standing NEBs
   - Taper steroids
   - Broad specturm antibiotics to cover HAP PNA (Vanc, Meropenem,
   Levaquin for atypicals; all started on [**2-10**]) and MRSA+ screen. Now Day
   [**9-30**]. Stop abx tomorrow.
   - reculture given rising leukocytosis
   - Monitor I/O with goal even
    # Tracheobronchomalacia s/p Y stent placement: S/p 2 bronchoscopies.
   Continue outpatient stent care (Guaifenesin, Acetylcysteine)
   - Stent in place by bronch
   # Hypertension/tachycardia: Most elevated with attempts to wean
   ventilator. Otherwise in good control and hypotensive intermittently on
   sedation. Since these changes are associated with attempts to wean,
   likely represent not so much anxiety as respiratory distress. Does have
   anxiety when extubated and off sedation.
   - Continue home Lopressor for rate control, with holding parameters
   - Holding other anti-hypertensives, now that BP has dropped with
   intubation/sedation (was switched to Fentanyl/versed from Propofol
   overnight to manage intermittent hypotension)
   # Anemia: Stable. No active bleeding.
   - Active T&S
   - Trend HCT daily
   # Thrombocytopenia: improving
   - Trend daily
   # GERD: famotidine and Sucralfate
   # Hypothyroid: c/w Levothyroxine
   # Hyperlipidemia: c/w Simvastatin
   # Anxiety: Mitrazapine 15 mg hs & ativan Q12 prn
   # Med Rec: Continue ASA. Hold Methenamine Hippurate
   # FEN: No IVF, replete electrolytes. Restart Tube feeds, continue free
   water flushes, mild hypernatremia resolving
   # Prophylaxis: Subcutaneous heparin, PPI, bowel regimen
   # Access: Radial line([**2-12**])  CVL ([**2-10**])
   # Communication: Family - HCP [**Name2 (NI) 849**] [**0-0-**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement

2153-02-19 11:23:00 Physician Attending Progress Note
ATTENDING
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Reintubated over weekend.
   SBT this morning -- still on and tolerating.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-18**] 08:06 PM
   Meropenem - [**2153-2-19**] 06:00 AM
   Levofloxacin - [**2153-2-19**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-2-18**] 09:15 PM
   Famotidine (Pepcid) - [**2153-2-19**] 12:59 AM
   Fentanyl - [**2153-2-19**] 06:15 AM
   Metoprolol - [**2153-2-19**] 06:15 AM
   Midazolam (Versed) - [**2153-2-19**] 06:55 AM
   Heparin Sodium (Prophylaxis) - [**2153-2-19**] 08:00 AM
   Other medications:
   sqi, sqh, vanco, [**Last Name (un) 614**], alb, sucralfate, levothyroxine, statin, mirtaz,
   asa, atrovent, levoflox, bowel reg, guaifenesin, CHG, metoprolol,
   methylpred 60 IV q8, midaz, fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-19**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 79 (79 - 168) bpm
   BP: 126/57(79) {89/54(67) - 245/139(179)} mmHg
   RR: 20 (10 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 12 (-1 - 12)mmHg
   Total In:
                                                                  2,861 mL
                                                                  1,048 mL
   PO:
   TF:
                                                                    721 mL
                                                                    278 mL
   IVF:
                                                                  1,655 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  3,697 mL
                                                                  1,040 mL
   Urine:
                                                                  3,697 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 267 (267 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 45%
   RSBI: 86
   PIP: 20 cmH2O
   SpO2: 91%
   ABG: 7.37/84.[**Numeric Identifier 1000**]/98.[**Numeric Identifier 176**]/43/18
   Ve: 4.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Seen on SBT
   Some paradox.  Tachycardic to 140s.  Hypertense to 180s.  Big swings in
   CVP with respirations.
   Moving good air
   Regular, tachycardic
   Soft abdomen
   Some edema
   Labs / Radiology
   10.2 g/dL
   216 K/uL
   154 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.8 mEq/L
   36 mg/dL
   93 mEq/L
   139 mEq/L
   32.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2153-2-17**]  04:30 PM
                             [**2153-2-17**]  04:35 PM
                             [**2153-2-18**]  03:09 AM
                             [**2153-2-18**]  06:26 AM
                             [**2153-2-18**]  07:40 AM
                             [**2153-2-18**]  07:46 AM
                             [**2153-2-18**]  04:22 PM
                             [**2153-2-19**]  02:56 AM
                             [**2153-2-19**]  06:52 AM
                             [**2153-2-19**]  10:41 AM
   WBC
   8.8
   10.1
   16.8
   Hct
   30.4
   30.0
   32.0
   Plt
   194
   196
   216
   Cr
   0.5
   0.5
   0.5
   TropT
   0.02
   TCO2
   39
   44
   45
   44
   50
   51
   Glucose
   138
   157
   154
   Other labs: PT / PTT / INR:12.0/39.8/1.0, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic
   Acid:0.6 mmol/L, LDH:175 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   78-year-old woman with respiratory failure in the setting of COPD,
   bronchiectasis, and stent for TBM.  Extubated Friday, reintubated over
   weekend.
   Respiratory failure
   - tolerated SBT for quite a while, but multiple signs of failure today
   - recheck RSBI/SBT daily
   - support between
   - seems to be improving slowly
   - PNA, COPD mgmt.  Complete antibiotics course today
   - seems euvolemic to dry on exam
   COPD exacerbation vs. bronchiectasis exacerbation
   - steroids, bronchodilators, mucinex
   - continue vanco, meropenem, and levoflox through today, then d/c
   TBM s/p stent
   - in place by bronch and imaging
   Tachycardia and hypertension
   Seems related to attempts at SBT
   Also on Lopressor for intercurrent hypertension
   [**Month (only) 51**] be a little dry
 if does not settle out
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2B, sucralfate
   VAP:
   Comments:
   Communication:  Comments:  with daughter
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent: 30 min

2153-02-20 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 78yF with COPD and tracheobronchomalacia admitted for
   respiratory distress.
   24 Hour Events:
 Failed SBT this AM; became hypertensive and tachycardic.
 somnolence in early AM noted; propofol temporarily d/c
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-19**] 10:00 AM
   Vancomycin - [**2153-2-19**] 08:37 PM
   Meropenem - [**2153-2-20**] 06:12 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2153-2-19**] 06:55 AM
   Heparin Sodium (Prophylaxis) - [**2153-2-19**] 04:00 PM
   Famotidine (Pepcid) - [**2153-2-20**] 04:00 AM
   Lorazepam (Ativan) - [**2153-2-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-20**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 99 (79 - 129) bpm
   BP: 97/60(73) {87/53(64) - 179/95(120)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 1 (-2 - 9)mmHg
   Total In:
                                                                  2,734 mL
                                                                    444 mL
   PO:
   TF:
                                                                    844 mL
                                                                     41 mL
   IVF:
                                                                  1,711 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    550 mL
   Urine:
                                                                  1,750 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    984 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 424 (267 - 450) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: 7.43/69/87.[**Numeric Identifier 181**]/43/17
   Ve: 5.9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   10.1 g/dL
   161 mg/dL
   0.3 mg/dL
   43 mEq/L
   4.2 mEq/L
   34 mg/dL
   92 mEq/L
   137 mEq/L
   30.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-2-18**]  07:40 AM
                             [**2153-2-18**]  07:46 AM
                             [**2153-2-18**]  04:22 PM
                             [**2153-2-19**]  02:56 AM
                             [**2153-2-19**]  06:52 AM
                             [**2153-2-19**]  10:41 AM
                             [**2153-2-19**]  02:58 PM
                             [**2153-2-19**]  03:28 PM
                             [**2153-2-20**]  03:56 AM
                             [**2153-2-20**]  05:29 AM
   WBC
   10.1
   16.8
   11.2
   Hct
   30.0
   32.0
   30.8
   Plt
   196
   216
   230
   Cr
   0.5
   0.4
   0.3
   TCO2
   45
   44
   50
   51
   44
   47
   Glucose
   154
   161
   161
   Other labs: PT / PTT / INR:11.4/43.0/0.9, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:25/35, Alk Phos / T Bili:38/0.1, Lactic
   Acid:0.6 mmol/L, LDH:175 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Mico/Studies
   UA: Sp Gr 1.020, pH 6.5, +30 protein; neg for blood, nitrite, ketones,
   glucose, leuks, bilirubin
   Sediment: [**5-31**] WBC, moderate yeast, few bacteria
   Sputum: Gram stain with >25PMNs and >10 epis; excessive contamination
   with upper respiratory secretions
   Blood cultures
Pending
   Urine cultures
pending
   CXR:
   Assessment and Plan
   78yF with COPD, tracheobronchomalacia, and bronchiectasis and previous
   ESBL UTI and pseudamonal respiratory cultures ([**10-30**]) admitted for
   respiratory distress with improving respiratory status but continued
   difficulty in weaning from ventilator.
   #) Respiratory distress--likely secondary to COPD exacerbation
   secondary to infection. Difficult to wean off ventilator with
   tachycardia and hypertension during SBTs. RSBIs <105, currently on PSV.
   - Continue to monitor RSBI
   - Will repeat SBT tomorrow morning and aim for extubation then.
   - Continue vanc/levo/[**Last Name (un) 614**] for now (patient has completed 10-day course
   for MRSA/atypial/pseuodamonal PNA, respectively) but given clinical
   condition hold on stopping antibiotics and wait on cultures
   - Taper IV methylprednisolone to prednisolone 60mg PO QD; patient has
   been on IV methylprednisolone for nearly 10 days.
   - On albuterol and ipratropium nebs q4h
   - continue to diurese (lasix 40mg IV x1 today for goal -1L); although
   CVP is low, TBB for yesterday was positive.
   #) LEUKOCYTOSIS--Leukocyte count 11.2
 16 on [**2-19**] <-- 10.1 previous
   day, currently 11.2. Unclear source of infection, although UA showed
   protein, [**2-23**] WBC, and moderate yeast. Patient has had Foley in place
   and in addition has been on high-dose IV steroids and broad-spectrum
   abx for 10 days so is susceptible to fungal infection. C. diff also a
   possibility.
   - Trend WBC count and monitor fever curve.
   - F/u C. diff toxin, urine cultures, blood cultures before beginning
   antibiotic coverage.
   - Re-send respiratory culture (contaminated upper respiratory sample)
   - If spikes, would re-culture and potentially consider empiric
   anti-fungals.
   - change out foley
   #) Hypertension--hypertension during SBT likely secondary to
   respiratory distress and anxiety. On ventilator BPs have remained
   within acceptable range.
   - Holding lopressor (home atenolol dose 50mg QD)
   #) Tachycardia--tachycardia during SBT.
   #) Anxiety--switched from midazolam/fentanyl to propofol with fentanyl
   PRN.
   - On mirtazapine
   - restart home ativan today (0.25mg q6h PRN)
   #) Elevated blood sugar--likely secondary to steroid use, should
   improve with steroid taper
   - Continue on insulin sliding scale
   #) Tracheobronchomalacia--s/p bronch confirming patent stent.
   - Continue guaifenisen
   #) Anemia--s/p 1U PRBCs on [**2-10**]; Hct stable at 30-32.
   #) Hypothyroidism
   - On home levothyroxine dose
   #) FEN--Na responded to free water flushes, currently stable at 137.
   - Continue free water flushes 100ml q6h.
   #) GERD--on famotidine, stopped sucralfate
   #) DVT ppx--SCH TID, pneumoboots
   #) Access: Radial line, CVL
    - Picc line; remove CVL.
   #) Code: Full
   #) Dispo: transfer to floor if successfully extubated. Speak to family
   re: possibility of trache/PEG in case of difficult extubation.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-20**] 06:33 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-21 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No major overnight events.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-19**] 10:00 AM
   Vancomycin - [**2153-2-20**] 08:00 PM
   Meropenem - [**2153-2-21**] 05:47 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2153-2-20**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-2-20**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-21**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.8
C (96.5
   HR: 88 (72 - 120) bpm
   BP: 115/72(88) {82/54(68) - 173/102(127)} mmHg
   RR: 28 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: -6 (-6 - 10)mmHg
   Total In:
                                                                  2,317 mL
                                                                    723 mL
   PO:
   TF:
                                                                    655 mL
                                                                    275 mL
   IVF:
                                                                  1,501 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    700 mL
   Urine:
                                                                  3,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -783 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 262 (203 - 377) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.49/59/124/41/19
   Ve: 6.9 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.8 g/dL
   214
   0.3 mg/dL
   41 mEq/L
   3.6 mEq/L
   30 mg/dL
   95 mEq/L
   139 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2153-2-20**]  03:56 AM
                             [**2153-2-20**]  05:29 AM
                             [**2153-2-20**]  09:00 AM
                             [**2153-2-20**]  09:37 AM
                             [**2153-2-20**]  04:00 PM
                             [**2153-2-20**]  04:04 PM
                             [**2153-2-20**]  10:00 PM
                             [**2153-2-21**]  03:49 AM
                             [**2153-2-21**]  04:00 AM
                             [**2153-2-21**]  04:17 AM
   WBC
   11.2
   8.8
   Hct
   30.8
   29.9
   Plt
   230
   208
   Cr
   0.3
   0.3
   TCO2
   47
   47
   46
   46
   Glucose
   161
   176
   190
   [**Telephone/Fax (3) 13748**]
   Other labs: PT / PTT / INR:11.4/43.0/0.9, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:26/12, Alk Phos / T Bili:52/0.2, Lactic
   Acid:0.6 mmol/L, LDH:148 IU/L, Ca++:8.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.4
   mg/dL
   Studies:
   [**2-19**] respiratory culture: (>25PMNs >10 epis, gram stain with upper
   respiratory flora contamination). Urinary legionella antigen negative,
   AFB negative.
   [**2-20**] respiratory  culture: (>25PMNs, >10 epis, gram stain with upper
   respiratory flora contamination)
   C. diff
   Urine culture-->100,000 yeast
   Blood culture--pending
   Assessment and Plan
   Assessment/Plan:
   78yF with COPD and tracheobronchomalacia who presented with respiratory
   distress and continued difficulty weaning from ventilator.
   #) Respiratory distress--COPD. Failed numerous SBTs and increased
   pressure support over night.
   - SBT this AM and plan for extubation; if fails will discuss with
   family tomorrow the possibility of tracheostomy
   - Continue steroids
   - Abx: completed 11 days on vanc/levo/[**Last Name (un) 614**]; CXR clear and no concerning
   sputum. If she had PNA it has likely cleared although her temp has run
   somewhat high (99.9). Will continue abx for now.
   - Volume status: CVP 7-10 yesterday PM when hypertensive/tachycardic.
   This likely does not represent true volume overload but rather elevated
   intrathoracic pressures
 elecated RVEDP
 increased CVP. Patient did
   not meet -1L diuresis goal yesterday, so would try gentle diuresis of
   lasix 20mg IV for goal -1L today.
   - Albuterol/Ipratropium q4h
   #) Candidal UTI most likely responsible for increase in WBC count and
   fever spike three days ago. Foley changed. Although we have no clear
   indication that she is symptomatic from this infection, plan to treat
   given presence of Foley, observed leukocytosis and fever, and relative
   immunosuppression on steroids.
   - Begin fluconazole 200mg IV PO QD
   - Continue to follow-up on other micro data (c. diff, blood cultures,
   respiratory cultures).
   #) Anxiety--secondary to baseline anxiety, respiratory distress, and
   discomfort on ventilator.
   - Continue propofol and standing doses of ativan with fentanyl boluses
   as needed.
   - On mirtazapine
   #) Elevated blood sugar--secondary to steroid use. Expect to taper
   steroids, although may benefit more aggressive blood-sugar control.
   -
   #) Blood pressure and tachycardia--most pronounced when family is
   present and when patient is interactive, likely secondary to
   respiratory distress and discomfort.
   - Keep lopressor dose as is (25mg [**Hospital1 7**]) given that patient also has low
   BPs in 80s.
   - Reassess vital signs, may need to increase pressure support if
   continues to be hypertensive/tachycardic.
   #) Anemia--Hct stable at 29.9.
   #) FEN--tube feed rate increased from 30ml/hr to 40ml/hr per nutrition
   recs.
   - Replete Mg 2mg IV
   #) GERD
   - on famotidine
   #) DVT ppx
   - Heparin 5000U SC TID
   #) Access: radial line, CVL
   - Picc order placed, will d/c CVL once Picc is in place
   #) Code: full
   #) Communication: daughters. To meet tomorrow if extubation difficult
   today for discussion of tracheostomy.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-20**] 10:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-22 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2153-2-21**] 10:15 AM
   -  After family discussion, code status changed to DNR
   - IP came by, tracheostomy is feasible
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Levofloxacin - [**2153-2-19**] 10:00 AM
   Vancomycin - [**2153-2-21**] 08:14 PM
   Meropenem - [**2153-2-22**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-2-21**] 04:00 PM
   Famotidine (Pepcid) - [**2153-2-22**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-22**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 87 (87 - 120) bpm
   BP: 103/57(73) {84/54(66) - 157/90(115)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 273 (4 - 273)mmHg
   Total In:
                                                                  2,669 mL
                                                                    819 mL
   PO:
   TF:
                                                                    960 mL
                                                                    267 mL
   IVF:
                                                                  1,470 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    330 mL
   Urine:
                                                                  2,930 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -261 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 215 (215 - 343) mL
   PS : 15 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.48/58/87.[**Numeric Identifier 181**]/44/16
   Ve: 6.9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.8 g/dL
   151 mg/dL
   0.4 mg/dL
   44 mEq/L
   4.0 mEq/L
   33 mg/dL
   97 mEq/L
   140 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2153-2-20**]  09:37 AM
                             [**2153-2-20**]  04:00 PM
                             [**2153-2-20**]  04:04 PM
                             [**2153-2-20**]  10:00 PM
                             [**2153-2-21**]  03:49 AM
                             [**2153-2-21**]  04:00 AM
                             [**2153-2-21**]  04:17 AM
                             [**2153-2-21**]  09:40 AM
                             [**2153-2-21**]  10:09 PM
                             [**2153-2-22**]  06:16 AM
   WBC
   8.8
   Hct
   29.9
   Plt
   208
   Cr
   0.3
   0.4
   TCO2
   47
   46
   46
   46
   44
   Glucose
   190
   213
   219
   214
   151
   Other labs: PT / PTT / INR:11.4/43.0/0.9, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:26/12, Alk Phos / T Bili:52/0.2, Lactic
   Acid:0.6 mmol/L, LDH:148 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Micro Data
   Assessment and Plan
   78yF with COPD and tracheobronchomalacia with Y stent who presented
   with respiratory distress and difficult weaning off ventilator.
   #) Respiratory distress--difficulty weaning from vent likely due to
   severe and irreversible COPD. No longer clear evidence of infection or
   fluid overload. RSBI increased.
   - Discussed possibility of tracheostomy with family. touch base with
   family re: their thoughts this afternoon
   - If patient and family would like tracheostomy, follow-up with IP. IP
   believes trach is possible.
   - Continue IV steroids
   - check diff given new leukocytosis
   - Continue vanc and [**Last Name (un) 614**] for now, likely stop later today, pending diff
   - vanc trough level 18.5 (fine)
   - Continue Ipratropium/albuterol nebs
   - give touch of lasix today
   #) Anxiety--secondary to baseline anxiety, respiratory distress, and
   discomfort on ventilator.
   - Continue propofol and PO ativan 0.5mg Q6h
   - On mirtazapine
   #) Possible candidal UTI--repeat UA unremarkable
   - Follow-up urine culture from changed Foley; hold off on anti-fungal
   treatment
   #) Blood sugar control--Finger stick range from 110-177 after
   increasing sliding scale.
   - Continue with this regimen, expect to down-titrate once steroids are
   d/c'ed.
   #) Hypertension and tachycardia
   #) Anemia--Hct stable at 29
   #) FEN
hold tube feeds for now
   #) GERD
   - on famotidine
   #) DVT ppx--5000U SCH
   #) Access: Radial Line, CVL, Picc line
   - D/c CVL today
   - F/u CXR after d/c'ing CVL to confirm adequate picc line placement
   #) Code status: DNR
   #) Communication: daughter
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Pulmonary (Full) - [**2153-2-21**] 09:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-10**] 03:17 AM
   Arterial Line - [**2153-2-12**] 04:13 PM
   PICC Line - [**2153-2-21**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-23 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2153-2-22**] 10:30 AM
   verified by xray
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-22**] 08:00 AM
   Meropenem - [**2153-2-22**] 12:00 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-2-22**] 04:00 PM
   Famotidine (Pepcid) - [**2153-2-22**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 102 (93 - 125) bpm
   BP: 95/61(72) {84/52(64) - 156/91(111)} mmHg
   RR: 24 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,312 mL
                                                                    121 mL
   PO:
             TF:
                                                                    805 mL
   IVF:
                                                                  1,147 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    260 mL
   Urine:
                                                                  2,160 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 319 (143 - 395) mL
   PS : 18 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.52/52/134/40/17
   Ve: 7.7 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Gen: NAD
   Pulm: b/l crackles at bases
   CV: RRR
   Abd: soft, nondistended
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, no rash
   Neurologic: pt. arousable to voice, becomes anxious,
   Labs / Radiology
   259 K/uL
   9.9 g/dL
   145 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.9 mEq/L
   32 mg/dL
   99 mEq/L
   142 mEq/L
   30.1 %
   18.9 K/uL
        [image002.jpg]
   Differential from [**2-22**] (WBC 13): N 87.8%, Lymphs 8.6%, Monos 3.3%, Eos
   0.2%, Baso 0.1%
                             [**2153-2-21**]  04:00 AM
                             [**2153-2-21**]  04:17 AM
                             [**2153-2-21**]  09:40 AM
                             [**2153-2-21**]  10:09 PM
                             [**2153-2-22**]  06:04 AM
                             [**2153-2-22**]  06:16 AM
                             [**2153-2-22**]  11:09 AM
                             [**2153-2-22**]  09:01 PM
                             [**2153-2-23**]  04:58 AM
                             [**2153-2-23**]  05:13 AM
   WBC
   13.3
   18.9
   Hct
   29.7
   30.1
   Plt
   250
   259
   Cr
   0.4
   0.4
   0.4
   TCO2
   46
   46
   44
   45
   41
   44
   Glucose
   [**Telephone/Fax (3) 13788**]45
   Other labs: PT / PTT / INR:11.9/25.8/1.0, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:26/12, Alk Phos / T Bili:52/0.2,
   Differential-Neuts:87.8 %, Lymph:8.6 %, Mono:3.3 %, Eos:0.2 %, Lactic
   Acid:0.6 mmol/L, LDH:148 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Micro:
   C. diff negative
   Pending: Urine cultures from [**2-21**], blood cultures from [**2-19**].
   Assessment and Plan
   78yF with severe COPD, tracheobronchomalacia s/p Y-stent placement, and
   previous pseudamonal respiratory cultures ([**10-30**]) who presented with
   respiratory distress and has been difficult to wean off mechanical
   ventilation.
   #) Respiratory distress--
   - Plan for trach and PEG today, is NPO (tube feeds held) and insulin is
   held
   - Methylpred 40mg q8 with transition to PO pred via G tube tomorrow
   - Continue standing nebs
   - Will keep vent settings somewhat stable today for procedures
   #) Leukocytosis--WBC count 18 <-- 13.3. Infectious etiology of concern,
   especially since antibiotics were discontinued yesterday and ?subtle
   interval opacification of left lower lung field on CXR yesterday. Of
   special concern is VAP with multi-resistant organism. Patient has
   remained afebrile, which is reassuring. [**Month (only) 51**] also be due to medication
   effect (steroids, heparin), but this would not fit within usual time
   course for development of leukocytosis on medications. C. diff
   negative.
   - Pan culture--blood, urine, respiratory
   - Repeat stool culture
   - Continue to f/u existing culture data: urine culture from [**1-23**] and
   blood culture from [**2-19**]
   - CXR stable
   - Consider  empiric abx coverage for VAP if changes in her CXR or
   clinical deterioration, f/u culture data
   #) Tachycardia--may be baseline anxiety but more concerning in the
   setting of increased leukocytosis for possible evolving infective
   picture.   [**Month (only) 51**] also be d/t alkalemia, hypovolemia.
   - Start on maintenance fluids in case volume down, especially since NPO
   for procedure
   - Continue to adjust vent settings to support HR/BP
   #) Hypotension
 somewhat lower overnight with increased propofol
 may
   become more of an issue with trach/PEG placement today and need for
   increased sedation.
   - continue to monitor
   - hold metoprolol
   - prepare phenylephrine drip for procedures as needed
   #) Impaired glucose control--expect improvement with tapering of
   steroids
   - Insulin held for NPO for procedure
   - [**Month (only) 51**] need to down-titrate sliding scale (4U --> 2U) as steroids are
   being tapered
   #) Anemia
Hct stable
   #) FEN
tube feeds held for trache/PEG.
   #) GERD
on famotidine
   #) DVT prophylaxis
heparin
   #) Access: R Picc line and radial line
   #) Code status: DNR
   #) Communication: family
   #) Dispo: pending stabilization after trache and PEG, d/c to rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-2-12**] 04:13 PM
   PICC Line - [**2153-2-21**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-24 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had trach and PEG placed
   Went off of propafol
   Overnight was anxious and more talkative
   Told intern overnight that she thought she was going to die today or
   tomorrow.
   Given 5mg zydis after which she was much calmer
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-22**] 08:00 AM
   Meropenem - [**2153-2-22**] 12:00 PM
   Cefazolin - [**2153-2-23**] 10:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2153-2-24**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-2-24**] 12:00 AM
   Midazolam (Versed) - [**2153-2-24**] 05:00 AM
   Fentanyl - [**2153-2-24**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-24**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 102 (75 - 125) bpm
   BP: 156/80(105) {79/53(63) - 198/92(131)} mmHg
   RR: 18 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 54 kg
   Height: 66 Inch
             Total In:
                                                                  1,090 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                  1,090 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    869 mL
                                                                    297 mL
   Urine:
                                                                    869 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    221 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 312 (312 - 429) mL
   PS : 16 cmH2O
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.50/52/99.[**Numeric Identifier 508**]/37/14
   Ve: 7.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: NAD
   Pulm:  equal air entry, decreased at bases, trach sutured in place,
   intact, no erythema or bleeding
   CV: RRR
   Abd:  PEG in place, dressing intact, no erythema, soft, NT/ND
   Peripheral Vascular: pulses intact BUE, b/l feet somewhat cold, pulses
   are intact, 2+ pitting edema
   Skin:  dry, no rash
   Neurologic: answering yes/no questions, following simple commands
   Labs / Radiology
   210 K/uL
   8.5 g/dL
   114 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.9 mEq/L
   32 mg/dL
   99 mEq/L
   140 mEq/L
   26.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2153-2-22**]  06:04 AM
                             [**2153-2-22**]  06:16 AM
                             [**2153-2-22**]  11:09 AM
                             [**2153-2-22**]  09:01 PM
                             [**2153-2-23**]  04:58 AM
                             [**2153-2-23**]  05:13 AM
                             [**2153-2-23**]  11:59 PM
                             [**2153-2-24**]  03:05 AM
                             [**2153-2-24**]  03:37 AM
                             [**2153-2-24**]  05:30 AM
   WBC
   13.3
   18.9
   11.0
   11.9
   Hct
   29.7
   30.1
   25.7
   26.0
   Plt
   [**Telephone/Fax (3) 13810**]10
   Cr
   0.4
   0.4
   0.4
   TCO2
   44
   45
   41
   44
   42
   42
   Glucose
   127
   145
   116
   114
   Other labs: PT / PTT / INR:12.5/26.0/1.1, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:16/13, Alk Phos / T Bili:36/0.4,
   Differential-Neuts:82.2 %, Lymph:14.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.6 g/dL, LDH:189 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   78yF with severe COPD, tracheobronchomalacia s/p Y-stent placement, and
   previous pseudamonal respiratory cultures ([**10-30**]) who presented with
   respiratory distress and has been difficult to wean off mechanical
   ventilation.  S/P trach and PEG on [**2153-2-23**]
   #) Respiratory distress
now s/p trach/PEG, tolerating CPAP pressures
   currently at 16/5. Overall ABG moving in right direction.
   - Methylpred 40mg q8 with transition to PO pred via G tube today with
   40mg pred and then taper (2d at each of 10)
   - Continue standing nebs
   - Pt. has been on CPAP pulling borderline volumes
   - plan to start trach mask trials
   #) Leukocytosis--WBC count now 11.9.  Abx  were discontinued [**2-22**] and
   had subtle interval opacification of left lower lung field on CXR at
   that time. Would consider VAP with multi-resistant organism, but has
   now been afebrile. [**Month (only) 51**] also be due to medication effect (steroids,
   heparin), but this would not fit within usual time course for
   development of leukocytosis on medications. C. diff negative.
   - F/U cultures: blood/urine/stool
   - CXR stable
   - Consider empiric abx coverage for VAP if changes in her CXR or
   clinical deterioration, f/u culture data
   #) Tachycardia--may be baseline anxiety but more concerning in the
   setting of increased leukocytosis for possible evolving infective
   picture. [**Month (only) 51**] also be d/t alkalemia, hypovolemia.
   - no IVF but starting tube feeds today
   - Continue to adjust vent settings to support HR/BP
   - restarting metoprolol 12.5 [**Hospital1 7**]
   #) Hypotension
 somewhat lower overnight with increased propofol
 may
   become more of an issue with trach/PEG placement today and need for
   increased sedation.
   - continue to monitor
   - restart metoprolol as above
   #) Impaired glucose control--expect improvement with tapering of
   steroids
   - continue ISS
   - [**Month (only) 51**] need to down-titrate sliding scale (4U --> 2U) as steroids are
   being tapered
   #) Anemia
Hct was stable but with 5 point drop this morning likely [**1-23**]
   procedures yesterday
   - check PM hct
   - keep T+S active
   #) Agitation: intermittently agitated off propafol, zydis worked well
   overnight
    - prn zydis, give with trach trials and at night if needed
    - ativan prn
   #) FEN
restarting tube feeds today
   #) GERD
on famotidine, will continue given trach
   #) DVT prophylaxis
heparin
   #) Access: R Picc line and radial line
    - will leave radial line for now, consider simultaneous ABG and VBG so
   can use VBGs after pull a line
   #) Code status: DNR
   #) Communication: family
   #) Dispo: pending stabilization after trach and PEG, d/c to rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-2-12**] 04:13 PM
   PICC Line - [**2153-2-21**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-25 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**2-24**]--OOB to chair
   - Overnight became hypertensive and tachycardic when pressure support
   decreased from 12 to 10; PS now at 12.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-22**] 08:00 AM
   Meropenem - [**2153-2-22**] 12:00 PM
   Cefazolin - [**2153-2-23**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-2-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 127 (88 - 133) bpm
   BP: 144/76(97) {82/52(62) - 156/89(105)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 54 kg
   Height: 66 Inch
             Total In:
                                                                    661 mL
                                                                    625 mL
   PO:
             TF:
                                                                    400 mL
                                                                    273 mL
   IVF:
                                                                    260 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  1,587 mL
                                                                    590 mL
   Urine:
                                                                  1,587 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (320 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.50/49/92.[**Numeric Identifier 132**]/38/13
   Ve: 8.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: Awake and alert, very anxious reporting difficulty breathing,
   no pain.
   Pulm: Rhonchi at bases bilaterally.
   Abdomen: soft, nontender, nondistended.
   Edema: warm, well perfused
   Labs / Radiology
   197 K/uL
   8.8 g/dL
   114 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.7 mEq/L
   28 mg/dL
   100 mEq/L
   142 mEq/L
   26.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2153-2-22**]  09:01 PM
                             [**2153-2-23**]  04:58 AM
                             [**2153-2-23**]  05:13 AM
                             [**2153-2-23**]  11:59 PM
                             [**2153-2-24**]  03:05 AM
                             [**2153-2-24**]  03:37 AM
                             [**2153-2-24**]  05:30 AM
                             [**2153-2-24**]  02:15 PM
                             [**2153-2-24**]  02:49 PM
                             [**2153-2-25**]  03:01 AM
   WBC
   18.9
   11.0
   11.9
   16.0
   11.9
   Hct
   30.1
   25.7
   26.0
   27.9
   26.2
   Plt
   259
   202
   210
   213
   197
   Cr
   0.4
   0.4
   0.4
   TCO2
   41
   44
   42
   42
   40
   Glucose
   145
   116
   114
   114
   Other labs: PT / PTT / INR:12.7/35.0/1.1, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:16/13, Alk Phos / T Bili:36/0.4,
   Differential-Neuts:82.2 %, Lymph:14.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.6 g/dL, LDH:189 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Micro:
   Blood cultures [**2-23**]
pending
   Sputum [**2-23**]
gram stain shows 4+ gram-negative rods, culture pending.
   Urine cultures 3/ 4
100K yeast
   Urine cultures 3/6
pending
   Stool
   Assessment and Plan
   78yF with COPD and tracheobronchomalacia presenting with respiratory
   distress and difficult weaning from ventilator, now s/p trache and PEG.
   #) Respiratory distress--s/p tracheostomy and PEG placement. Difficult
   to decrease pressure support settings and wean off vent due to poor
   pulmonary pump function and patient
s anxiety.
   - Continue to adjust pressure support settings to try to wean off vent.
   - Trache mask trials
   - Continue with steroid taper (today is day 2 of Prednisone 40mg QD).
   - Continue standing nebs
   #) Anxiety
anxious at baseline, exacerbated by respiratory distress.
   - Anxiety regimen: standing ativan 0.5mg q6h, midazolam 12.5mg-25mg IV
   Q4h prn, fentanyl 12.5-25mcg Q4h prn, ativan 0.5mg q4h prn, olanzapine
   5mg TID prn
   - Will d/c midazolam to simplify anti-anxiety regimen
   #) Tachycardia
most likely secondary to respiratory distress and
   anxiety. Infectious etiology less likely given that patient has
   remained afebrile for one week, no clear source of infection found, and
   WBC count has been down-trending.
   - If BP permits, resume home dose of lopressor (12.5
 25mg [**Hospital1 7**])
   - Optimize respiratory parameters on vent
   - Manage anxiety as above.
   #) Increased WBC count
WBC 11.9
 16
 11.9. Respiratory gram stain
   showing gram negative rods which is consistent with previous gram
   stains during this admission. Not symptomatic for respiratory
   infection. Urine culture from 3 /4 grew 10K-100K yeast which was
   equivocal for infection, re-sent cultures.
   - F/u respiratory culture data
   - F/u urine culture and other micro data
   #) Impaired glucose control
finger sticks within more acceptable range
   (106-188) as prednisone is tapered
   - Down-titrate sliding scale today from 4U
 2U humalog.
   #) Anemia
Hct 26.2, which is stable over last several days. Probably
   due to some bleeding during procedure.
   - Continue to monitor daily Hct.
   #) Hypertension
SBPs range from 120-150s range with occasional readings
   in 80s.
   - Increase lopressor to home dose.
   - Continue to hold home dose of norvasc.
   #) FEN
continuing with tube feeds to 40ml/hr
   #) Bowel regimen
colace 100 [**Hospital1 7**] and senna PRN. Will give ducolax PR
   given no BM in last two days.
   #) Tracheobronchomalacia
on guaifenisen
   #) Hypothyroidism
on levothyroxine
   #) Hyperlipidemia
on simvastatin
   #) GERD
on famotidine
   #) DVT ppx--heparin
   #) Access: R Picc, L radial. Will plan to d/c arterial line today.
   #) Communication: family
   #) Dispo: to rehab pending improvement in respiratory status.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-25**] 04:56 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-2-12**] 04:13 PM
   PICC Line - [**2153-2-21**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-26 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-2-26**] 06:16 AM
   Remains anxious. Complaining of some nausea this morning.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Lipitor (Oral) (Atorvastatin Calcium)
   Hepatic toxicit
   Last dose of Antibiotics:
   Cefazolin - [**2153-2-23**] 10:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-2-25**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 115 (104 - 135) bpm
   BP: 153/86(99) {153/86(99) - 153/86(99)} mmHg
   RR: 26 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 54 kg
   Height: 66 Inch
                  Total In:
                                                                  1,646 mL
                                                                    283 mL
   PO:
                  TF:
                                                                    966 mL
                                                                    283 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    940 mL
   Urine:
                                                                  2,250 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -604 mL
                                                                   -657 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (300 - 357) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   8.8 g/dL
   114 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.7 mEq/L
   28 mg/dL
   100 mEq/L
   142 mEq/L
   26.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2153-2-22**]  09:01 PM
                             [**2153-2-23**]  04:58 AM
                             [**2153-2-23**]  05:13 AM
                             [**2153-2-23**]  11:59 PM
                             [**2153-2-24**]  03:05 AM
                             [**2153-2-24**]  03:37 AM
                             [**2153-2-24**]  05:30 AM
                             [**2153-2-24**]  02:15 PM
                             [**2153-2-24**]  02:49 PM
                             [**2153-2-25**]  03:01 AM
   WBC
   18.9
   11.0
   11.9
   16.0
   11.9
   Hct
   30.1
   25.7
   26.0
   27.9
   26.2
   Plt
   259
   202
   210
   213
   197
   Cr
   0.4
   0.4
   0.4
   TCO2
   41
   44
   42
   42
   40
   Glucose
   145
   116
   114
   114
   Other labs: PT / PTT / INR:12.7/35.0/1.1, CK / CKMB /
   Troponin-T:20/3/0.02, ALT / AST:16/13, Alk Phos / T Bili:36/0.4,
   Differential-Neuts:82.2 %, Lymph:14.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.6 g/dL, LDH:189 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Micro:
   UCx [**2-24**] >100K yeast
   Assessment and Plan
   78yF with COPD and tracheobronchomalacia presenting with respiratory
   distress and difficult weaning from ventilator, now s/p trache and PEG.
   #) Respiratory distress--s/p tracheostomy and PEG placement
   - Continue to wean pressure support settings
   - Trache-mask trials
   - OOB to chair
   - Continue steroid taper: today is day 3 of prednisone 40mg QD (switch
   to 30mg [**First Name9 (NamePattern2) **] [**Doctor First Name 697**])
   - Continue standing nebs
   - no need to check further VBGs
   #) Anxiety
anxious at baseline, exacerbated by respiratory distress.
   - Anxiety regimen: standing ativan 0.5mg q6h, fentanyl 12.5-25mcg Q4h
   prn, ativan 0.5mg q4h prn, olanzapine 5mg TID prn
   - Continue with standing ativan and prn fentanyl and olanzapine
   - Mirtazapine
   #) Tachycardia
Tachycardia most pronounced when patient is anxious
   during interventions (moving patient, adjusting ventilator settings)
   and less pronounced during periods of rest. Most likely secondary to
   anxiety followed by respiratory distress.
   - On lopressor 25 [**Hospital1 7**], increase to 25 TID
   - Optimize respiratory parameters on vent
   - Manage anxiety as above
   #) BP--has remained intermittently hypertensive with interventions,
   most likely secondary to anxiety.
   - Increase BB as above
   - Not going to add back home norvasc at this time
   #) Increased WBC count
WBC 11.9
 16
 11.9. Respiratory gram stain
   showing gram negative rods which is consistent with previous gram
   stains during this admission, most likley representing colonization.
   Not symptomatic for respiratory infection. Urine culture from 3 /6 grew
   100,000K yeast. Foley was changed
   - Continue to follow respiratory culture data
   - Will need to follow UAs at rehab and potentially d/c Foley in near
   future as patient becomes more mobile.
   #) Impaired glucose control
finger sticks within acceptable range
   #) Anemia
Hct 26.2, which is stable over last several days. Probably
   due to some bleeding during procedure.
   #) FEN
continuing with tube feeds to 40ml/hr
   #) Bowel regimen
colace 100 [**Hospital1 7**] and senna PRN. Gave dulcolax yesterday
   and patient stooled.
   - Contine on current regimen
   #) Tracheobronchomalacia
on guaifenisen
   #) Hypothyroidism
on levothyroxine
   #) Hyperlipidemia
on simvastatin
   #) GERD
on famotidine
   #) DVT ppx--heparin
   #) Access: R Picc, L radial.
   - D/c L radial
   #) Communication: family
   #) Dispo: to rehab
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-2-26**] 03:19 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-2-21**] 10:15 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: